US04623662
A solution of 1.55 g of 2,4-diflurophenylisocyanate in hexane was added to a solution of 2.61 g of N-heptyl-4-butylbenzenemethanamine in 15 ml of hexane and the solution was stirred at room temperature for 4 hours, then evaporated. The residual oil was distilled to yield 1-[(4-butylphenyl)methyl]-1-(n-heptyl)-3-[2,4-difluorophenyl]urea as a colorless oil, bp 160°-165° C./120μ.

reactant | 2,4-diflurophenylisocyanate | 1.55 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | N-heptyl-4-butylbenzenemethanamine | 2.61 g | C(CCCCCC)NCC1=CC=C(C=C1)CCCC | C18H31N
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 15 ml | CCCCCC | C6H14
product | 1-[(4-butylphenyl)methyl]-1-(n-heptyl)-3-[2,4-difluorophenyl]urea | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC | C25H34F2N2O
